US07498440B2
Preparation of 4-{hydroxy[bis(4-methylphenyl)]methyl}-1-{2-[(phenylmethyl)oxy]ethyl}-1-azoniabicyclo[2.2.2]octane bromide
Following the general procedure outlined in Example 3, 1-azabicyclo[2.2.2]oct-4-yl[bis(4-methylphenyl)]methanol (0.0525 g, 0.163 mmol) and 2-bromoethyl phenylmethyl ether (0.0387 mL, 0.245 mmol) in 2 CH3CN/3 CHCl3 (4.0 mL) were reacted to give the desired product (0.0465 g, 53.1%). EI-MS m/z 456(M+) Rt (2.09 min).

reactant | 1-azabicyclo[2.2.2]oct-4-yl[bis(4-methylphenyl)]methanol | 0.163 mmol, 0.0525 g | N12CCC(CC1)(CC2)C(O)(C2=CC=C(C=C2)C)C2=CC=C(C=C2)C | C22H27NO
reactant | 2-bromoethyl phenylmethyl ether | 0.245 mmol, 0.0387 mL | C1(=CC=CC=C1)COCCBr | C9H11BrO
solvent | CH3CN | 4.0 mL | CC#N | C2H3N
product | 4-{hydroxy[bis(4-methylphenyl)]methyl}-1-{2-[(phenylmethyl)oxy]ethyl}-1-azoniabicyclo[2.2.2]octane bromide | 0.0465 g, 53.1% | [Br-].OC(C12CC[N+](CC1)(CC2)CCOCC2=CC=CC=C2)(C2=CC=C(C=C2)C)C2=CC=C(C=C2)C | InChI=1S/C31H38NO2.BrH/c1-25-8-12-28(13-9-25)31(33,29-14-10-26(2)11-15-29)30-16-19-32(20-17-30,21-18-30)22-23-34-24-27-6-4-3-5-7-27;/h3-15,33H,16-24H2,1-2H3;1H/q+1;/p-1
